US04246268
When in the procedure of Example 19, 4-chloro-1-(4-fluorophenyl)-1-butanone is substituted for 4-chloro-1-phenyl-1-butanone and 1-naphthyl 4-piperidyl ketone hydrochloride is substituted for 2-naphthyl 4-piperidyl ketone hydrochloride, 4-[4-(1-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone hydrochloride is produced. M.P. 239°-41°.

reactant | 4-chloro-1-(4-fluorophenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | 4-chloro-1-phenyl-1-butanone | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | 1-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC=CC2=CC=CC=C12
reactant | 2-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC2=CC=CC=C2C=C1
product | 4-[4-(1-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)C(=O)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | InChI=1S/C26H26FNO2.ClH/c27-22-12-10-20(11-13-22)25(29)9-4-16-28-17-14-21(15-18-28)26(30)24-8-3-6-19-5-1-2-7-23(19)24;/h1-3,5-8,10-13,21H,4,9,14-18H2;1H
